US08193199B2
Prepared according to Procedure B using 2-(2-chlorophenyl)-8-chloroquinoline-3-carbaldehyde (1.18 g, 3.9 mmol), and sodium borohydride (0.222 g, 5.86 mmol, 1.5 eq) in THF (20 mL). (2-(2-chlorophenyl)-8-chloroquinolin-3-yl)methanol was obtained as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.56 (1H, s), 8.10 (1H, dd, J=8.2, 1.2 Hz), 7.94 (1H, dd, J=7.6, 1.4 Hz), 7.63 (2H, t, J=7.8 Hz), 7.44-7.59 (3H, m), 5.54 (1H, t, J=5.3 Hz) Mass Spectrum (ESI) m/e=304.0 and 306.1 (M+1)

reactant | 2-(2-chlorophenyl)-8-chloroquinoline-3-carbaldehyde | 3.9 mmol, 1.18 g | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1C=O)Cl | C16H9Cl2NO
reactant | sodium borohydride | 5.86 mmol, 0.222 g, 1.5 eq | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-(2-chlorophenyl)-8-chloroquinolin-3-yl)methanol | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CO)Cl | C16H11Cl2NO
